US06107337
To a solution of the crude 1-[[3-(tert-butyl-dimethylsilanyloxy)propyl]-(4'-fluorobiphenyl-4-sulfonyl)amino]cyclopentanecarboxylic acid benzyl ester (27.35 grams) in methylene chloride (450 mL) at room temperature was added boron trifluoride etherate (11 mL, 89.4 mmol). After 45 minutes, the reaction was quenched by sequential addition of saturated ammonium chloride solution and water. The organic phase was separated, washed with water and brine and dried over magnesium sulfate. Evaporation of the solvent under vacuum provided crude 1-[(4'-fluorobiphenyl-4-sulfonyl)-(3-hydroxypropyl)amino]cyclopentane carboxylic acid benzyl ester as an amber oil (22.1 grams).

reactant | 1-[[3-(tert-butyl-dimethylsilanyloxy)propyl]-(4'-fluorobiphenyl-4-sulfonyl)amino]cyclopentanecarboxylic acid benzyl ester | 27.35 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)CCCO[Si](C)(C)C(C)(C)C | C34H44FNO5SSi
reactant | boron trifluoride etherate | 89.4 mmol, 11 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 450 mL | C(Cl)Cl | CH2Cl2
product | 1-[(4'-fluorobiphenyl-4-sulfonyl)-(3-hydroxypropyl)amino]cyclopentane carboxylic acid benzyl ester | 22.1 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CCCO)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C28H30FNO5S
